R1 ( net48 net139)  R=4.4E1
T2 ( net139 net139 0 0)  nfet  L=1.30E-6 W=2.51E-6
T3 ( net187 net139 0 0)  nfet  L=1.30E-6 W=2.51E-6
T4 (net190 net50 net50 0) pfet L=8.94E-6 W=4.43E-6
T5 ( net11 net11 vdd! vdd!)  pfet  L=3.87E-6 W=5.08E-6
T6 ( net27 net11 vdd! vdd!)  pfet  L=3.87E-6 W=5.08E-6
R7 ( net27 net40)  R=1.0E5
T8 (vdd! net180 net180 0) nfet L=1.98E-6 W=8.75E-6
T9 (net164 net14 net14 0) pfet L=5.94E-6 W=7.02E-6
C10 (net89 net42) C=0.1E-12
C11 (net184 net90) C=9.2E-7
T12 (net151 0 0 0) nfet L=5.72E-6 W=5.14E-6
C13 (net164 net165) C=3.0E-6
R14 (net145 net84) R=0.2E3
C15 (net159 net129) C=8.6E-7
C16 (net63 net173) C=1.4E-9
R17 (net101 net44) R=6.8E1
T18 (net108 0 0 0) pfet L=7.31E-6 W=2.12E-6
C19 (net37 net108) C=8.3E-6
R20 (net39 net182) R=8.6E1
T21 (0 net182 net182 0) nfet L=1.34E-6 W=2.56E-6
T22 (net179 net147 net147 0) nfet L=5.31E-6 W=8.25E-6
T23 (net142 net50 net50 0) nfet L=8.06E-6 W=2.50E-6
R24 (net145 net33) R=7.0E5
C25 (net78 net195) C=5.4E-11
T26 (net11 0 0 0) pfet L=6.83E-6 W=7.93E-6
T27 (net85 net98 net98 0) nfet L=1.53E-6 W=1.33E-6
T28 (net9 net121 net121 0) nfet L=2.09E-6 W=2.49E-6
T29 (net125 net46 net46 0) pfet L=1.80E-6 W=3.16E-6
T30 (net189 net37 net37 0) pfet L=6.60E-6 W=4.43E-6
C31 (net177 net36) C=2.5E-8
T32 (net181 net11 net11 0) pfet L=2.44E-6 W=4.82E-6
T33 (net81 net185 net185 0) pfet L=6.32E-6 W=4.95E-6
C34 (net90 net124) C=9.6E-8
T35 (net155 net199 net199 0) nfet L=2.59E-6 W=8.89E-6
T36 (net172 net186 net186 0) nfet L=9.85E-6 W=1.95E-6
T37 (net136 net124 net124 0) nfet L=6.03E-6 W=9.18E-6
T38 (net104 net182 net182 0) pfet L=2.57E-6 W=6.47E-6
T39 (net148 net36 net36 0) pfet L=3.51E-6 W=4.44E-6
C40 (vdd! net122) C=9.2E-11
T41 (net202 net121 net121 0) nfet L=2.78E-6 W=4.27E-6
T42 (net124 net49 net49 0) nfet L=2.06E-6 W=0.11E-6
C43 (net97 net23) C=4.9E-6
C44 (net59 net116) C=0.8E-9
T45 (net99 net36 net36 0) nfet L=3.59E-6 W=2.27E-6
T46 (vdd! net196 net196 0) nfet L=5.54E-6 W=3.55E-6
R47 (net111 net127) R=7.9E4
T48 (net84 net133 net133 0) nfet L=1.75E-6 W=7.86E-6
T49 (net84 net29 net29 0) pfet L=8.82E-6 W=4.52E-6
R50 (net150 net135) R=6.1E2
R51 (net19 net44) R=4.6E2
T52 (net157 net125 net125 0) nfet L=8.30E-6 W=2.61E-6
T53 (net96 net71 net71 0) nfet L=2.38E-6 W=1.50E-6
T54 (net13 net131 net131 0) pfet L=6.21E-6 W=6.63E-6
T55 (net10 net8 net8 0) nfet L=9.28E-6 W=8.22E-6
C56 (net2 net28) C=4.4E-12
R57 (net118 net143) R=3.2E1
R58 (net117 net22) R=2.6E5
C59 (net202 net60) C=3.4E-14
T60 (net192 net56 net56 0) nfet L=0.42E-6 W=2.57E-6
T61 (net26 net96 net96 0) nfet L=1.91E-6 W=2.41E-6
R62 (net3 net170) R=6.0E4
C63 (0 net48) C=9.7E-12
T64 (net134 net62 net62 0) pfet L=0.33E-6 W=7.86E-6
R65 (net34 net108) R=7.5E0
C66 (net5 net103) C=6.5E-13
R67 (net199 net83) R=7.8E4
T68 (net47 net56 net56 0) nfet L=1.14E-6 W=7.20E-6
R69 (net168 0) R=2.9E2
C70 (net166 net15) C=7.5E-13
C71 (net179 net198) C=4.9E-14
C72 (net77 net125) C=2.4E-5
R73 (net41 0) R=8.2E3
C74 (net182 net97) C=2.4E-10
R75 (vdd! net2) R=2.1E6
R76 (0 net74) R=2.0E2
T77 (net39 net28 net28 0) pfet L=0.34E-6 W=5.00E-6
T78 (net95 net41 net41 0) pfet L=4.29E-6 W=7.92E-6
R79 (net159 net172) R=1.1E6
C80 (net180 net50) C=8.0E-10
T81 (net170 net116 net116 0) pfet L=7.94E-6 W=3.11E-6
R82 (0 net30) R=6.4E2
C83 (net153 net64) C=2.6E-5
T84 (net21 net51 net51 0) pfet L=6.37E-6 W=9.52E-6
C85 (net144 net203) C=7.8E-13
C86 (net131 net64) C=8.0E-11
C87 (net150 net143) C=7.5E-11
C88 (net8 net38) C=6.8E-9
T89 (net163 net141 net141 0) nfet L=8.48E-6 W=2.76E-6
T90 (net183 net85 net85 0) pfet L=9.87E-6 W=7.23E-6
R91 (net175 net153) R=5.6E2
R92 (net185 0) R=6.0E6
T93 (vdd! net29 net29 0) nfet L=6.01E-6 W=8.71E-6
R94 (net155 net9) R=5.8E4
T95 (net177 net68 net68 0) nfet L=8.99E-6 W=9.66E-6
R96 (net138 net10) R=6.5E1
T97 (net184 net34 net34 0) nfet L=2.35E-6 W=1.23E-6
R98 (net6 net133) R=2.7E5
T99 (net69 net160 net160 0) nfet L=8.45E-6 W=1.03E-6
T100 (net47 net106 net106 0) nfet L=6.33E-6 W=0.30E-6
T101 (net84 net57 net57 0) nfet L=4.49E-6 W=6.79E-6
T102 (net11 net95 net95 0) pfet L=6.88E-6 W=3.09E-6
C103 (net108 net91) C=8.1E-14
T104 (vdd! net48 net48 0) pfet L=5.48E-6 W=5.24E-6
T105 (vdd! net196 net196 0) pfet L=9.91E-6 W=6.30E-6
T106 (net149 net87 net87 0) nfet L=9.81E-6 W=6.41E-6
T107 (net129 net142 net142 0) nfet L=3.43E-6 W=7.53E-6
T108 (net67 net140 net140 0) nfet L=4.34E-6 W=5.55E-6
R109 (net67 net6) R=8.3E1
C110 (net61 net198) C=7.9E-10
T111 (0 net163 net163 0) pfet L=6.96E-6 W=2.54E-6
T112 (net147 net118 net118 0) nfet L=1.85E-6 W=9.69E-6
C113 (net60 net183) C=1.5E-5
T114 (net21 net31 net31 0) nfet L=1.26E-6 W=2.31E-6
T115 (0 net64 net64 0) pfet L=7.13E-6 W=1.60E-6
R116 (net185 net146) R=5.4E2
T117 (net153 net51 net51 0) nfet L=4.44E-6 W=8.01E-6
R118 (net186 net144) R=7.8E5
R119 (net103 vdd!) R=7.1E6
R120 (net62 net177) R=1.7E6
R121 (net194 net137) R=4.1E1
T122 (net12 net148 net148 0) pfet L=3.93E-6 W=0.21E-6
T123 (net88 net182 net182 0) nfet L=4.96E-6 W=1.91E-6
R124 (net155 net148) R=1.7E2
R125 (net143 net90) R=4.6E3
C126 (net136 vdd!) C=4.0E-10
T127 (net203 net79 net79 0) nfet L=5.07E-6 W=9.35E-6
C128 (net56 net71) C=6.5E-5
T129 (net79 net174 net174 0) nfet L=6.38E-6 W=2.96E-6
T130 (net40 net62 net62 0) nfet L=9.06E-6 W=5.68E-6
C131 (net1 net114) C=3.7E-7
T132 (net21 net61 net61 0) nfet L=1.01E-6 W=6.52E-6
R133 (net186 net188) R=8.0E1
R134 (net84 net167) R=4.3E6
R135 (net189 net157) R=1.1E1
T136 (net112 net105 net105 0) nfet L=5.92E-6 W=9.10E-6
T137 (net132 net188 net188 0) pfet L=6.05E-6 W=0.88E-6
T138 (net97 net156 net156 0) pfet L=3.19E-6 W=9.64E-6
R139 (net192 net5) R=2.7E5
C140 (net181 net3) C=6.6E-9
T141 (net100 net61 net61 0) nfet L=1.18E-6 W=8.17E-6
C142 (net3 net170) C=6.3E-6
C143 (net151 net148) C=4.3E-5
T144 (net3 net136 net136 0) pfet L=2.06E-6 W=8.02E-6
R145 (net43 net103) R=6.4E6
T146 (net147 net72 net72 0) nfet L=3.80E-6 W=2.17E-6
T147 (net81 net96 net96 0) nfet L=8.35E-6 W=7.25E-6
T148 (net199 net73 net73 0) nfet L=5.48E-6 W=1.66E-6
R149 (vdd! net94) R=3.5E2
T150 (net52 net77 net77 0) pfet L=4.66E-6 W=5.15E-6
T151 (net55 net107 net107 0) nfet L=2.35E-6 W=1.45E-6
R152 (net30 vdd!) R=1.3E5
T153 (net98 net201 net201 0) nfet L=5.07E-6 W=4.48E-6
C154 (net18 net112) C=6.2E-12
C155 (net133 net30) C=9.7E-6
R156 (net37 net152) R=0.9E0
C157 (net135 net92) C=9.8E-12
T158 (net162 net121 net121 0) nfet L=6.32E-6 W=0.55E-6
T159 (net189 net41 net41 0) pfet L=9.46E-6 W=4.68E-6
R160 (net16 net148) R=0.2E6
T161 (net95 net38 net38 0) nfet L=3.11E-6 W=4.34E-6
C162 (net29 net182) C=6.5E-6
T163 (vdd! net131 net131 0) pfet L=3.97E-6 W=7.32E-6
R164 (net142 net11) R=4.4E5
T165 (net155 net144 net144 0) nfet L=7.90E-6 W=1.23E-6
C166 (net8 vdd!) C=7.8E-7
T167 (net159 net143 net143 0) nfet L=1.79E-6 W=8.30E-6
T168 (net29 net11 net11 0) pfet L=5.97E-6 W=3.48E-6
C169 (net65 net84) C=5.1E-5
T170 (net6 net56 net56 0) nfet L=2.68E-6 W=2.58E-6
T171 (net99 vdd! vdd! 0) pfet L=6.15E-6 W=0.85E-6
T172 (net146 0 0 0) pfet L=6.25E-6 W=3.68E-6
T173 (net182 vdd! vdd! 0) pfet L=4.81E-6 W=9.77E-6
C174 (net158 net131) C=5.3E-5
R175 (net157 net185) R=2.6E6
T176 (net191 net38 net38 0) pfet L=9.99E-6 W=1.33E-6
C177 (net169 net54) C=1.6E-7
T178 (net83 net35 net35 0) nfet L=3.06E-6 W=7.07E-6
C179 (net70 net128) C=3.1E-5
T180 (net134 net143 net143 0) nfet L=7.33E-6 W=9.78E-6
T181 (net115 net203 net203 0) pfet L=7.43E-6 W=2.16E-6
C182 (net184 net199) C=2.8E-9
T183 (net138 net191 net191 0) pfet L=9.80E-6 W=6.52E-6
T184 (net21 net79 net79 0) nfet L=4.76E-6 W=9.55E-6
C185 (net59 vdd!) C=5.6E-12
T186 (net156 vdd! vdd! 0) pfet L=9.81E-6 W=3.76E-6
R187 (net83 net182) R=1.4E5
R188 (net105 net39) R=1.2E3
R189 (net201 net64) R=5.7E4
C190 (0 net132) C=7.1E-13
R191 (net106 net40) R=7.7E6
T192 (vdd! net117 net117 0) nfet L=1.43E-6 W=8.62E-6
T193 (net199 0 0 0) nfet L=9.06E-6 W=0.56E-6
T194 (net118 net92 net92 0) nfet L=8.10E-6 W=5.88E-6
R195 (net121 net49) R=5.0E4
T196 (net24 net1 net1 0) nfet L=2.95E-6 W=1.79E-6
T197 (net135 net29 net29 0) pfet L=9.22E-6 W=4.23E-6
T198 (0 net183 net183 0) pfet L=8.40E-6 W=9.84E-6
C199 (net197 net1) C=2.0E-14
R200 (net149 net101) R=3.6E6
R201 (net198 net67) R=9.9E3
T202 (net150 vdd! vdd! 0) pfet L=4.54E-6 W=0.69E-6
T203 (net30 net81 net81 0) pfet L=4.29E-6 W=4.11E-6
R204 (net68 net89) R=7.7E0
T205 (net18 net189 net189 0) nfet L=6.17E-6 W=2.94E-6
T206 (net63 net146 net146 0) pfet L=4.76E-6 W=9.86E-6
T207 (net143 net151 net151 0) nfet L=8.85E-6 W=6.25E-6
C208 (net91 net98) C=1.1E-7
C209 (net7 net24) C=7.0E-11
C210 (net87 net102) C=5.4E-8
T211 (0 net187 net187 0) pfet L=5.28E-6 W=0.36E-6
C212 (net18 net32) C=8.4E-5
T213 (net101 net107 net107 0) nfet L=8.41E-6 W=3.03E-6
T214 (net129 net104 net104 0) pfet L=3.13E-6 W=6.52E-6
C215 (net155 net26) C=1.3E-5
C216 (vdd! net187) C=1.1E-6
T217 (net200 net178 net178 0) nfet L=1.09E-6 W=6.22E-6
C218 (net83 net38) C=9.4E-9
T219 (net149 net149 net149 0) pfet L=2.48E-6 W=4.83E-6
T220 (0 net55 net55 0) pfet L=9.49E-6 W=3.64E-6
C221 (net177 net57) C=1.4E-9
T222 (net47 net33 net33 0) nfet L=0.67E-6 W=5.27E-6
C223 (net101 net143) C=7.2E-13
C224 (net192 net167) C=0.7E-6
C225 (net137 net130) C=5.7E-8
C226 (net148 net103) C=6.3E-11
T227 (net146 net129 net129 0) nfet L=6.93E-6 W=4.60E-6
C228 (net182 net108) C=0.4E-12
T229 (net184 vdd! vdd! 0) pfet L=6.56E-6 W=2.32E-6
C230 (vdd! 0) C=9.0E-13
C231 (net133 net182) C=9.2E-5
R232 (0 net95) R=4.3E1
R233 (net175 net154) R=1.7E2
T234 (net75 net176 net176 0) nfet L=3.75E-6 W=3.37E-6
C235 (net123 net200) C=7.4E-12
C236 (net127 net155) C=3.0E-9
C237 (vdd! net124) C=8.5E-9
T238 (net165 net63 net63 0) pfet L=8.65E-6 W=4.74E-6
R239 (net122 net96) R=8.1E0
T240 (net119 net29 net29 0) nfet L=0.86E-6 W=8.57E-6
C241 (net121 net50) C=9.5E-12
T242 (net135 net175 net175 0) nfet L=2.29E-6 W=5.50E-6
T243 (net65 net188 net188 0) nfet L=8.37E-6 W=6.35E-6
C244 (net93 net56) C=1.5E-7
T245 (net154 net73 net73 0) pfet L=0.51E-6 W=2.12E-6
C246 (net108 net41) C=5.7E-7
R247 (net143 net96) R=9.9E6
T248 (net17 net133 net133 0) nfet L=8.75E-6 W=3.33E-6
T249 (net88 net194 net194 0) nfet L=9.15E-6 W=2.95E-6
C250 (net185 net155) C=1.7E-7
T251 (net119 net74 net74 0) pfet L=2.84E-6 W=9.05E-6
R252 (net47 net178) R=1.3E5
C253 (net72 net152) C=3.6E-11
T254 (net44 net99 net99 0) pfet L=6.10E-6 W=2.51E-6
C255 (net162 net138) C=8.9E-6
T256 (net133 net83 net83 0) pfet L=6.67E-6 W=3.20E-6
C257 (net120 net14) C=0.3E-5
R258 (net16 net79) R=5.4E1
T259 (net10 net7 net7 0) nfet L=6.67E-6 W=3.45E-6
R260 (net31 net174) R=2.6E4
T261 (net125 net187 net187 0) nfet L=1.35E-6 W=0.47E-6
C262 (net40 net170) C=7.7E-5
T263 (net2 net80 net80 0) pfet L=7.83E-6 W=4.31E-6
T264 (net163 net181 net181 0) nfet L=1.68E-6 W=8.86E-6
T265 (net104 net12 net12 0) nfet L=4.90E-6 W=6.90E-6
C266 (net141 vdd!) C=4.9E-14
T267 (net53 0 0 0) nfet L=7.62E-6 W=1.69E-6
R268 (net203 net154) R=0.7E6
T269 (net15 net199 net199 0) nfet L=5.16E-6 W=9.74E-6
T270 (net75 net136 net136 0) pfet L=0.68E-6 W=2.85E-6
T271 (net172 net191 net191 0) nfet L=9.89E-6 W=6.43E-6
T272 (net177 net60 net60 0) nfet L=0.66E-6 W=7.87E-6
T273 (net63 net176 net176 0) nfet L=9.09E-6 W=7.97E-6
C274 (net121 net10) C=5.2E-7
C275 (net194 net1) C=5.4E-6
T276 (net165 net79 net79 0) nfet L=0.63E-6 W=1.01E-6
T277 (net59 net113 net113 0) nfet L=6.41E-6 W=0.24E-6
R278 (net90 net15) R=9.5E2
C279 (net118 vdd!) C=2.5E-12
C280 (net158 net130) C=1.7E-9
C281 (net95 net63) C=6.2E-5
T282 (net3 net61 net61 0) pfet L=6.10E-6 W=9.14E-6
T283 (net58 net164 net164 0) pfet L=3.68E-6 W=8.83E-6
T284 (net35 net10 net10 0) pfet L=3.92E-6 W=5.00E-6
C285 (net201 net177) C=1.6E-5
R286 (net73 net203) R=6.2E5
C287 (net107 0) C=0.3E-5
T288 (0 net131 net131 0) pfet L=3.44E-6 W=9.97E-6
C289 (vdd! net157) C=7.5E-9
C290 (0 net25) C=2.9E-8
T291 (0 net168 net168 0) pfet L=6.76E-6 W=7.23E-6
T292 (net144 net129 net129 0) pfet L=5.42E-6 W=1.47E-6
T293 (net87 net188 net188 0) pfet L=5.48E-6 W=9.14E-6
C294 (net184 net126) C=2.5E-8
T295 (0 net38 net38 0) pfet L=7.49E-6 W=6.47E-6
T296 (net9 net190 net190 0) nfet L=9.18E-6 W=2.80E-6
C297 (net121 net199) C=1.5E-5
C298 (net29 net159) C=3.4E-14
T299 (vdd! net38 net38 0) nfet L=5.12E-6 W=9.25E-6
R300 (net157 net105) R=3.1E6
T301 (net89 net176 net176 0) pfet L=0.11E-6 W=7.54E-6
C302 (net10 net50) C=8.4E-12
T303 (net64 0 0 0) pfet L=7.69E-6 W=6.74E-6
T304 (0 net60 net60 0) pfet L=8.08E-6 W=2.85E-6
R305 (net144 net155) R=4.1E0
T306 (net148 net159 net159 0) nfet L=3.11E-6 W=0.90E-6
R307 (net18 net106) R=0.3E3
T308 (net55 net162 net162 0) nfet L=1.06E-6 W=1.34E-6
T309 (net61 net143 net143 0) nfet L=0.71E-6 W=4.74E-6
C310 (net57 vdd!) C=3.7E-10
R311 (net80 net56) R=3.6E0
T312 (vdd! net179 net179 0) nfet L=3.82E-6 W=2.34E-6
R313 (0 net56) R=0.4E6
C314 (0 net98) C=8.0E-14
T315 (net20 net44 net44 0) nfet L=4.34E-6 W=8.69E-6
C316 (net117 net99) C=8.6E-14
C317 (net133 net171) C=3.1E-10
R318 (vdd! net13) R=4.6E3
C319 (net94 net198) C=3.6E-6
T320 (net184 net133 net133 0) nfet L=8.16E-6 W=6.38E-6
T321 (net55 0 0 0) nfet L=6.36E-6 W=0.89E-6
T322 (vdd! net76 net76 0) nfet L=4.32E-6 W=3.75E-6
T323 (net135 net99 net99 0) pfet L=2.63E-6 W=1.75E-6
R324 (net52 net111) R=8.7E4
R325 (vdd! net180) R=8.3E5
C326 (net151 vdd!) C=9.3E-11
T327 (0 net188 net188 0) nfet L=7.63E-6 W=7.55E-6
T328 (net83 net81 net81 0) nfet L=1.18E-6 W=8.53E-6
T329 (0 net96 net96 0) pfet L=8.35E-6 W=1.25E-6
T330 (net170 net60 net60 0) pfet L=2.91E-6 W=8.98E-6
T331 (net145 net50 net50 0) nfet L=7.00E-6 W=5.25E-6
T332 (net88 net109 net109 0) pfet L=8.37E-6 W=4.09E-6
R333 (net6 net140) R=3.2E1
R334 (net161 net41) R=2.4E5
C335 (net193 net36) C=9.2E-10
R336 (net185 net102) R=2.7E4
C337 (net201 net53) C=4.7E-6
R338 (net176 net196) R=3.7E5
R339 (net160 net85) R=1.1E4
C340 (net196 net44) C=4.5E-14
C341 (net169 net130) C=7.1E-11
R342 (net69 net109) R=4.7E0
T343 (net192 net166 net166 0) nfet L=2.64E-6 W=8.32E-6
T344 (net153 net177 net177 0) pfet L=5.19E-6 W=9.42E-6
C345 (net50 net59) C=0.3E-13
T346 (net171 0 0 0) nfet L=5.62E-6 W=5.65E-6
R347 (net105 net166) R=8.4E1
C348 (net60 net195) C=7.4E-11
C349 (net93 net35) C=0.9E-7
T350 (net145 net28 net28 0) nfet L=3.53E-6 W=4.00E-6
T351 (net183 net174 net174 0) pfet L=6.32E-6 W=9.57E-6
R352 (net187 net138) R=8.5E2
T353 (net108 net53 net53 0) nfet L=8.98E-6 W=9.15E-6
C354 (net51 net170) C=1.8E-10
C355 (net164 net193) C=2.3E-10
T356 (net156 net56 net56 0) pfet L=1.83E-6 W=2.36E-6
R357 (net37 net161) R=8.3E1
T358 (net70 net58 net58 0) pfet L=2.88E-6 W=5.54E-6
R359 (net63 net122) R=6.7E3
C360 (net88 net167) C=4.4E-10
T361 (net149 net79 net79 0) pfet L=2.14E-6 W=5.53E-6
T362 (net37 net20 net20 0) pfet L=2.14E-6 W=6.95E-6
C363 (vdd! net30) C=8.9E-7
R364 (net196 net170) R=1.7E5
T365 (net163 net156 net156 0) nfet L=2.87E-6 W=4.27E-6
T366 (0 net156 net156 0) pfet L=2.91E-6 W=7.97E-6
R367 (net46 net8) R=3.1E4
T368 (0 net133 net133 0) pfet L=1.74E-6 W=8.59E-6
C369 (net60 net57) C=7.4E-6
R370 (net40 net199) R=9.2E1
C371 (net167 net65) C=2.9E-13
R372 (net31 net132) R=8.1E6
T373 (net165 net131 net131 0) nfet L=3.75E-6 W=2.49E-6
C374 (net149 net37) C=9.4E-6
C375 (net63 net195) C=3.0E-13
C376 (0 net177) C=3.5E-7
T377 (net146 net70 net70 0) nfet L=5.77E-6 W=9.91E-6
R378 (net132 net76) R=3.6E1
C379 (net104 net153) C=5.6E-9
T380 (net32 net103 net103 0) pfet L=4.54E-6 W=1.70E-6
C381 (net103 0) C=7.7E-8
R382 (net29 net118) R=8.6E5
R383 (net29 net95) R=0.5E4
R384 (net66 0) R=6.6E5
T385 (net19 net156 net156 0) pfet L=5.51E-6 W=6.61E-6
T386 (net16 net181 net181 0) nfet L=4.32E-6 W=4.68E-6
T387 (net182 net111 net111 0) nfet L=6.17E-6 W=1.89E-6
R388 (vdd! net1) R=10.0E0
T389 (net108 net82 net82 0) pfet L=4.59E-6 W=8.12E-6
T390 (net143 vdd! vdd! 0) nfet L=4.84E-6 W=8.26E-6
C391 (net198 net88) C=5.2E-9
R392 (net114 net51) R=5.3E4
C393 (0 net168) C=0.7E-7
T394 (net184 net1 net1 0) pfet L=1.86E-6 W=5.04E-6
C395 (net198 vdd!) C=9.3E-14
R396 (net106 net72) R=9.7E2
C397 (net161 0) C=5.9E-9
C398 (net62 net38) C=4.9E-11
R399 (net83 net87) R=2.1E6
C400 (net163 net22) C=3.9E-8
C401 (net98 net126) C=1.8E-8
C402 (net103 net96) C=8.2E-9
T403 (net97 vdd! vdd! 0) pfet L=2.41E-6 W=5.30E-6
T404 (net103 net168 net168 0) pfet L=2.71E-6 W=1.83E-6
C405 (net100 net51) C=6.5E-14
C406 (net130 vdd!) C=7.1E-9
T407 (net195 net26 net26 0) nfet L=5.64E-6 W=0.24E-6
C408 (net199 net85) C=3.2E-10
C409 (net61 net115) C=9.6E-10
T410 (net183 net49 net49 0) nfet L=2.76E-6 W=5.74E-6
C411 (net22 vdd!) C=8.2E-10
R412 (net171 net60) R=2.4E3
C413 (net192 net140) C=2.4E-6
T414 (net122 net38 net38 0) nfet L=4.22E-6 W=8.53E-6
T415 (net83 net151 net151 0) pfet L=1.48E-6 W=9.27E-6
T416 (net168 net201 net201 0) pfet L=6.73E-6 W=1.91E-6
T417 (net77 net157 net157 0) pfet L=5.75E-6 W=2.55E-6
C418 (net98 net69) C=1.1E-9
T419 (net180 net109 net109 0) nfet L=0.72E-6 W=0.91E-6
T420 (net94 net107 net107 0) pfet L=0.58E-6 W=1.80E-6
T421 (vdd! net111 net111 0) pfet L=0.56E-6 W=7.95E-6
R422 (net13 net120) R=7.8E4
T423 (net128 0 0 0) pfet L=6.51E-6 W=2.33E-6
T424 (0 0 0 0) pfet L=6.48E-6 W=8.94E-6
T425 (net39 net181 net181 0) nfet L=1.55E-6 W=4.66E-6
C426 (0 net64) C=4.4E-9
C427 (net26 0) C=6.7E-10
C428 (net44 net143) C=1.1E-7
R429 (net119 net201) R=5.3E6
R430 (net174 net155) R=1.6E6
R431 (net56 net13) R=9.7E3
R432 (net32 0) R=6.8E6
T433 (net91 net112 net112 0) nfet L=4.68E-6 W=2.96E-6
T434 (net41 net4 net4 0) nfet L=6.66E-6 W=8.95E-6
T435 (net120 net62 net62 0) pfet L=2.06E-6 W=4.77E-6
T436 (net90 net152 net152 0) pfet L=5.55E-6 W=3.52E-6
T437 (net94 net202 net202 0) pfet L=8.82E-6 W=5.90E-6
T438 (net74 net28 net28 0) nfet L=8.06E-6 W=3.58E-6
T439 (0 net128 net128 0) nfet L=2.30E-6 W=9.46E-6
T440 (net197 0 0 0) pfet L=2.70E-6 W=6.47E-6
C441 (vdd! net145) C=8.1E-13
T442 (net102 net160 net160 0) nfet L=7.73E-6 W=6.90E-6
T443 (net5 net45 net45 0) nfet L=0.68E-6 W=3.67E-6
C444 (net158 net51) C=4.0E-8
R445 (net7 net115) R=5.8E6
C446 (net86 net49) C=9.0E-5
T447 (net123 net7 net7 0) pfet L=7.61E-6 W=5.98E-6
T448 (net170 vdd! vdd! 0) pfet L=7.54E-6 W=3.63E-6
R449 (net76 net96) R=9.9E0
C450 (net201 net25) C=4.1E-10
R451 (net108 net77) R=3.2E5
T452 (net144 0 0 0) pfet L=6.60E-6 W=9.10E-6
T453 (net76 net47 net47 0) pfet L=6.22E-6 W=4.41E-6
R454 (net79 0) R=2.9E3
T455 (net196 net75 net75 0) nfet L=2.46E-6 W=8.95E-6
C456 (net158 net3) C=2.8E-8
C457 (net118 net189) C=3.5E-7
C458 (net125 net26) C=5.0E-9
R459 (net23 net56) R=7.3E1
T460 (net183 vdd! vdd! 0) nfet L=6.00E-6 W=7.49E-6
R461 (net123 net191) R=3.5E6
C462 (0 net94) C=0.8E-6
R463 (net195 net23) R=6.4E5
C464 (net85 net34) C=7.1E-6
C465 (net40 net62) C=9.5E-12
R466 (net33 net90) R=7.5E4
T467 (net57 net38 net38 0) nfet L=6.71E-6 W=6.65E-6
C468 (net159 net25) C=7.4E-13
R469 (net124 net49) R=1.7E5
T470 (net146 net35 net35 0) nfet L=8.80E-6 W=7.78E-6
C471 (net8 net162) C=4.5E-14
T472 (net38 net6 net6 0) pfet L=0.94E-6 W=9.46E-6
R473 (net89 net101) R=2.0E2
T474 (net106 net19 net19 0) nfet L=0.34E-6 W=1.38E-6
C475 (net7 net75) C=0.2E-14
C476 (net150 net85) C=4.1E-9
C477 (net174 net155) C=0.8E-10
R478 (net180 net108) R=8.9E0
C479 (net112 net198) C=9.0E-9
C480 (net46 net16) C=0.8E-10
T481 (net155 net21 net21 0) pfet L=8.94E-6 W=0.86E-6
T482 (0 net196 net196 0) nfet L=3.21E-6 W=2.85E-6
C483 (net176 vdd!) C=0.9E-13
C484 (net63 net195) C=9.4E-6
C485 (net161 net56) C=7.5E-14
T486 (net20 net83 net83 0) nfet L=0.85E-6 W=3.95E-6
R487 (net159 net164) R=9.6E3
C488 (net192 net163) C=7.7E-5
T489 (0 net144 net144 0) pfet L=4.67E-6 W=1.17E-6
C490 (net35 net191) C=7.2E-12
R491 (net109 net53) R=4.5E0
T492 (net203 net203 net203 0) pfet L=3.51E-6 W=9.29E-6
T493 (net192 net128 net128 0) pfet L=3.79E-6 W=9.04E-6
R494 (net143 net65) R=1.7E2
T495 (net30 net73 net73 0) pfet L=4.70E-6 W=4.87E-6
T496 (net11 net8 net8 0) pfet L=4.87E-6 W=7.25E-6
R497 (net83 net142) R=6.9E4
C498 (net12 net130) C=9.5E-13
C499 (net200 net201) C=4.7E-14
T500 (net129 net171 net171 0) pfet L=2.70E-6 W=2.72E-6
T501 (net195 net109 net109 0) nfet L=8.85E-6 W=0.67E-6
T502 (net1 net194 net194 0) pfet L=3.04E-6 W=6.86E-6
C503 (net43 net3) C=3.8E-8
T504 (net164 net197 net197 0) nfet L=1.24E-6 W=6.76E-6
C505 (net46 net55) C=8.0E-14
R506 (net45 net172) R=3.3E2
C507 (net138 net168) C=2.7E-14
R508 (net55 net10) R=2.7E1
C509 (net24 net196) C=3.4E-8
C510 (net138 net180) C=7.5E-11
T511 (net101 net44 net44 0) pfet L=6.93E-6 W=9.36E-6
T512 (net171 net177 net177 0) pfet L=1.20E-6 W=5.45E-6
C513 (net79 net12) C=0.1E-14
C514 (0 net101) C=6.9E-9
C515 (net197 net64) C=0.4E-9
T516 (net194 net12 net12 0) nfet L=4.20E-6 W=2.76E-6
T517 (net91 net25 net25 0) pfet L=1.05E-6 W=6.77E-6
T518 (net5 0 0 0) pfet L=5.73E-6 W=2.85E-6
R519 (net73 net93) R=0.5E3
T520 (net17 net94 net94 0) pfet L=5.12E-6 W=9.00E-6
R521 (net181 net31) R=5.8E1
R522 (net59 net172) R=0.9E5
T523 (net60 net80 net80 0) pfet L=4.87E-6 W=1.49E-6
T524 (net58 net193 net193 0) pfet L=0.62E-6 W=3.87E-6
C525 (net54 net108) C=8.5E-7
R526 (net24 net37) R=8.5E5
T527 (net163 net31 net31 0) nfet L=6.27E-6 W=1.77E-6
R528 (net120 net114) R=8.1E0
R529 (net125 net196) R=4.1E4
T530 (0 net72 net72 0) pfet L=7.76E-6 W=1.08E-6
R531 (net162 net16) R=1.3E0
T532 (net39 net17 net17 0) pfet L=6.46E-6 W=6.64E-6
R533 (net182 net150) R=6.2E3
R534 (net192 net107) R=7.5E0
C535 (net78 0) C=9.3E-11
R536 (net10 net75) R=2.5E6
T537 (net79 net42 net42 0) pfet L=4.09E-6 W=5.86E-6
R538 (net134 net59) R=2.5E2
C539 (net84 net164) C=2.6E-7
T540 (net163 net127 net127 0) pfet L=7.42E-6 W=7.29E-6
T541 (net31 net9 net9 0) pfet L=3.46E-6 W=9.54E-6
R542 (net106 net109) R=6.3E2
R543 (net25 net68) R=9.1E4
R544 (net179 net37) R=6.8E1
T545 (net167 net202 net202 0) pfet L=3.19E-6 W=5.41E-6
T546 (net54 net186 net186 0) nfet L=8.10E-6 W=8.07E-6
R547 (vdd! net183) R=8.8E5
T548 (net109 net36 net36 0) pfet L=3.98E-6 W=1.80E-6
C549 (net40 net172) C=8.8E-10
R550 (net188 net182) R=0.6E6
T551 (net158 net124 net124 0) nfet L=9.55E-6 W=7.46E-6
T552 (net5 net31 net31 0) pfet L=9.78E-6 W=7.14E-6
R553 (net89 net138) R=0.2E1
R554 (net169 net83) R=1.3E5
T555 (net41 net84 net84 0) pfet L=5.49E-6 W=7.93E-6
C556 (net36 net197) C=3.7E-5
R557 (net152 net133) R=4.5E6
C558 (net140 net44) C=7.8E-9
C559 (net65 net25) C=6.1E-7
R560 (net13 net38) R=8.6E0

